### PR TITLE
Add Erdős Problem 1058 (Luca's theorem on prime factors of n!+1), link the formal proof

### LINKED ISSUE #6281: Erdős Problem 1058
### What is the Erdős problem?

https://www.erdosproblems.com/1058

Let $2=p_1<p_2<\cdots$ be the sequence of prime numbers. Are there only finitely many $n$ such that $n\in [p_{k-1},p_k)$ and the only primes dividing $n!+1$ are $p_{k}$ and $p_{k+1}$?

Status: proved (Luca: the only solutions are $n = 1, 2, 3, 4, 5$). A formal proof exists in plby/lean-proofs (`Erdos1058.erdos_1058`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6281.

### What changed
Adds `FormalConjectures/ErdosProblems/1058.lean` with `IsSolution n` (`n ∈ [p_{k-1}, p_k)` and every prime factor of `n! + 1` is `p_k` or `p_{k+1}`, primes indexed by `Nat.nth Nat.Prime` with `p_0 = 1`) and:
- `erdos_1058` (`research solved`, `answer(True)`): there are only finitely many solutions (Luca [Lu01]).
- `erdos_1058.variants.luca`: the solutions are exactly `{1, 2, 3, 4, 5}`.

Both are linked to plby/lean-proofs `Erdos1058.erdos_1058` (Codex and GPT-5.6 Sol; 30 Mathlib-only files, ~40k lines, combining kernel-checked primality/cubic-character certificates with a specialised Bugeaud–Laurent interpolation-determinant estimate).

### How checked
- Rebuilt all 30 of plby's files against this repo's Mathlib: `#print axioms Erdos1058.erdos_1058` → `[propext, Classical.choice, Quot.sound]`, no `native_decide`.
- Bridge compiled against both statements on top of a renamed copy, same axioms (the solution predicates agree definitionally):

<details>
<summary>Bridge</summary>

```lean
namespace Bridge1058

lemma lowerEndpoint_eq (k : ℕ) :
    (if k = 0 then 1 else Nat.nth Nat.Prime (k - 1)) = Erdos1058Plby.lowerEndpoint k := by
  cases k with
  | zero => rfl
  | succ k => rfl

lemma isSolution_iff (n : ℕ) : Erdos1058.IsSolution n ↔ Erdos1058Plby.IsSolution n := by
  unfold Erdos1058.IsSolution Erdos1058Plby.IsSolution
  simp only [lowerEndpoint_eq]

theorem erdos_1058_luca_bridge : type_of% Erdos1058.erdos_1058.variants.luca := by
  ext n
  simp only [Set.mem_ofPred_eq, isSolution_iff, Erdos1058Plby.erdos_1058, Set.mem_insert_iff,
    Set.mem_singleton_iff]

theorem erdos_1058_bridge : type_of% Erdos1058.erdos_1058 := by
  show True ↔ _
  simp only [true_iff]
  rw [erdos_1058_luca_bridge]
  simp

end Bridge1058
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1058»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1058.lean [hunk 1]
```diff
@@ -0,0 +1,63 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1058.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
